US07253146B2
Acylation of 4-amino-proline Group:
To the resin was added the corresponding acylating agent (usually a carboxyxlic acid (R64′COOH, 3 equiv.), HBTU (22.3 mg, 4 equiv.), HOBt (8 mg, 4 equiv.) and DIEA (125 μL, 6 equiv.) in DMF (2 mL) for 1.5–2 hrs at room temperature. The resin was filtered, washed with 2×DMF, 3×CH2Cl2, 2×DMF.

reactant | HBTU | 22.3 mg, 4 equiv. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 8 mg, 4 equiv. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 125 μL, 6 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-amino-proline | NC1C[C@H](NC1)C(=O)O | C5H10N2O2
